US04348402
(j) N-Benzoyl-2-hydroxymethyl-3,4,5-trihydroxypiperidine
27 ml of benzoyl chloride in 300 ml of ethyl acetate were added dropwise to a solution of 30 g of 1-desoxynojirimicin in 120 ml of H2O, 350 ml of CH3OH and 30 ml of triethylamine at 30°-35° C. The mixture was subsequently stirred at room temperature for 1 hour and a further 15 ml of triethylamine and 13.5 ml of benzoyl chloride in 150 ml of ethyl acetate were then added dropwise at 30°-35° C. After stirring for 1 hour, the reaction mixture was evaporated to dryness in vacuo. The residue was taken up in water and the aqueous mixture was extracted with ether. The aqueous phase was again concentrated to dryness in vacuo and the residue was stirred with acetone. The triethylamine hydrochloride which has precipitated was filtered off. Residual triethylamine hydrochloride was separated off by again concentrating the acetone solution and taking up the residue in a little acetone. After removal of the solvent, the product was obtained as a resin. After thorough drying, this resin could be employed in the next stage. Yield: 56 g of crude N-benzoyl-3,4,5-trihydroxypiperidine. After standing for a relatively long period, the compound crystallised from acetone. Melting point: 159° C.

reactant | benzoyl chloride | 27 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | CH3OH | 350 ml | CO | CH4O
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 13.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-benzoyl-3,4,5-trihydroxypiperidine | Yield: 56 g | C(C1=CC=CC=C1)(=O)N1CC(C(C(C1)O)O)O | C12H15NO4
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | H2O | 120 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-Benzoyl-2-hydroxymethyl-3,4,5-trihydroxypiperidine | C(C1=CC=CC=C1)(=O)N1C(C(C(C(C1)O)O)O)CO | C13H17NO5
